US05866573
3-[2-(2-Pyridyl)ethylamino]-6-Methyl-1-(3-chlorobenzylacetamido)-2-Pyrazinone
The title compound was prepared from 3-[2-(2-pyridyl)ethylamino]-6-methyl-1-carboxymethylpyrazinone and 3-chlorobenzylamine using the procedure of EXAMPLE V, Step F, mp 201°-207° C.: MS (FAB) 412 (M+1)+.

reactant | 3-[2-(2-pyridyl)ethylamino]-6-methyl-1-carboxymethylpyrazinone | N1=C(C=CC=C1)CCNC=1C(N(C(=CN1)C)CC(=O)O)=O | C14H16N4O3
reactant | 3-chlorobenzylamine | ClC=1C=C(CN)C=CC1 | C7H8ClN
product | 3-[2-(2-Pyridyl)ethylamino]-6-Methyl-1-(3-chlorobenzylacetamido)-2-Pyrazinone | N1=C(C=CC=C1)CCNC=1C(N(C(=CN1)C)NC(CCC1=CC(=CC=C1)Cl)=O)=O | C21H22ClN5O2
